US07196086B2
1-(3-Fluorophenyl)piperazine
1 g (5.71 mmol) of 3-fluorobromobenzene and 2.95 g (34.29 mmol) of piperazine are dissolved in 20 ml of toluene, and 0.77 g (8 mmol) of sodium tert-butoxide is added. In the presence of 0.11 g (0.17 mmol) of BINAP and 0.05 g (0.06 mmol) of tris(dibenzylideneacetone)dipalladium, the mixture is then stirred under reflux overnight. After cooling, ethyl acetate is added and the mixture is washed with water. The mixture is then extracted with 1N hydrochloric acid, and the aqueous phase is washed with ethyl acetate. The pH is adjusted to 8–9 and the mixture is then extracted with dichloromethane. The organic phase is dried over magnesium sulphate and the solvent is removed, giving the target compound.

reactant | 3-fluorobromobenzene | 5.71 mmol, 1 g | FC=1C=C(C=CC1)Br | C6H4BrF
reactant | piperazine | 34.29 mmol, 2.95 g | N1CCNCC1 | C4H10N2
reactant | sodium tert-butoxide | 8 mmol, 0.77 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.17 mmol, 0.11 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.06 mmol, 0.05 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-Fluorophenyl)piperazine | FC=1C=C(C=CC1)N1CCNCC1 | C10H13FN2
